US06921763B2
2-Amino-4-methylphenol (1.15 g, 9.34 mmol) was added to a solution of 4-bromophenyl isothiocyanate (2.00 g, 9.34 mmol) in tetrahydrofuran (35 mL) and the reaction was stirred at room temperature for 16 h. Anhydrous copper (II) sulfate (14.06 g, 88.10 mmol), silica gel (14.06 g), and triethylamine (1.3 mL, 9.34 mmol) were added, and the mixture was stirred at room temperature for 24 h. The reaction was concentrated under reduced pressure and then added to a silica pad and purified using 1:5 ethyl acetate:heptane (2 L) followed by diethyl ether as the eluent to afford N2-(4-bromophenyl)-5-methyl-1,3-benzoxazol-2-amine as a light brown solid (2.30 g, 81%);

reactant | 2-Amino-4-methylphenol | 9.34 mmol, 1.15 g | NC1=C(C=CC(=C1)C)O | C7H9NO
reactant | 4-bromophenyl isothiocyanate | 9.34 mmol, 2.00 g | BrC1=CC=C(C=C1)N=C=S | C7H4BrNS
reactant | triethylamine | 9.34 mmol, 1.3 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 35 mL | O1CCCC1 | C4H8O
catalyst | copper (II) sulfate | 88.10 mmol, 14.06 g | S(=O)(=O)([O-])[O-].[Cu+2]
product | N2-(4-bromophenyl)-5-methyl-1,3-benzoxazol-2-amine | 2.30 g, 81% | BrC1=CC=C(C=C1)NC=1OC2=C(N1)C=C(C=C2)C | C14H11BrN2O
